* X:\taller-circuitos-tpi\Simulaciones\2024-09-23 LDO A - rta freq.asc
RL V2s 0 10
VIN Vpos 0 6.35
R1f V2s N008 1.5k
R2f N008 0 4.7K
Rs V2s V1s {Ri}
Q2 N005 N005 N003 0 BC558B
Q3 N002 N005 N004 0 BC558B
Q4 N005 retro N010 0 BC548B
Q5 N002 Vref N010 0 BC548B
R1 Vpos N003 1k
R14 Vpos N004 1k
R15 Vpos N009 1k
Q6 N009 N009 0 0 BC548B
Q7 N010 N009 0 0 BC548B
M1 V1s N002 Vpos Vpos irf9540npbf
Q1 N002 N006 Vpos 0 BC558B
Q8 N006 0 0 0 BC548B
R17 Vpos N006 100k
L1 retro N008 10000
C2 V2s N007 1µ
R2 N007 0 0.3
V1 P001 0 AC 1
C1 retro P001 10000
V2 Vref 0 2.5
.model NPN NPN
.model PNP PNP
.lib C:\Users\verof\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\verof\AppData\Local\LTspice\lib\cmp\standard.mos
* .op
* .dc VIN 6 6.5
* .step param RL 500 5 5
.MODEL irf9540npbf PMOS LEVEL=1 IS=1e-32  L=100u W=100u VTO=-3.74034 LAMBDA=0.00254531 KP=6.90462 CGSO=1.15995e-05 CGDO=1e-11
* Regulación de carga:
* Regulación de linea:\nVREG 6,25V a 6,45V
* .step param RL list 5 10 250 500
* Punto de operación
* .meas DC Vo2rl FIND V(Vo) AT=6.45\n.meas DC Vo1rl FIND V(Vo) AT=6.25\n.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* 5V
* 3.3V
* .step param RL 326 3.3 3.3
* .meas OP Vo1rc FIND V(Vo) AT 326\n.meas OP Vo2rc FIND V(Vo) AT 6.6\n.meas OP Io1rc FIND I(RL) AT 326\n.meas OP Io2rc FIND I(RL) AT 6.6\n.meas OP RegCar PARAM (-(Vo2rc-Vo1rc)/(Io2rc-Io1rc))
* Mido eficiencia
* .meas OP Eficiencia PARAM -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
* Mido regulacion de carga
* Variación carga
* __________________________________________________\n|Tension  |   RF        |  Carga 1A a 20 mA  |  Carga 0.5A a 10mA |\n_____________________________________________________\n|   5   V    |   1.18k   |       5   a 250            |        10   a 500         |\n|  3.3 V    |   3.67k   |      3.3 a 163             |        6.6  a 326         |
* .step param RL list 3.3 6.6 163 326
* .meas DC Eficiencia PARAM -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.param Ri=0.1
* .step oct param RL 0.1 10 5
.model BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=374.6 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835
+Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.lib sloj018.txt
#MODELO TRANSISTORES CASA
.model BC558B PNP(Is=1.02f Xti=3 Eg=1.11 Vaf=52.31 Bf=306.5 Ise=10.27f Ne=1.764 Ikf=91.85m Nk=.5351 Xtb=1.5 Br=6.48 Isc=1.472f Nc=1.294 Ikr=.5584 Rc=1.086 Cjc=9.81p Mjc=.332 Vjc=.4865 Fc=.5 Cje=30p Mje=.3333 Vje=.5 Tr=10n Tf=611.6p Itf=1.373 Xtf=26.05 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=374.6 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
* .dc V1 0 2
* .param V1=1.25-3.3*0.1/{RL}
* .step param capacitor list 10n 47n 100n
.ac dec 10 1 10g
* .tran 0 10m 0 1u
* PULSE(0 1u 0 1n 1n 1m 2m 200)
* .step param capacitor 1.2n 1.45n 0.05n
.backanno
.end
